US05795901
A stirred mixture of 1.0 gram (0.002 mole) of N-[4-(cyclopropylmethoxy)phenylmethyl]-4-[bis(4-trifluoromethylphenyl)hydroxy-methyl]piperidine N-oxide, 0.3 gram (0.002 mole) of ethyl iodide, and about 5.0 mL of acetonitrile was heated at reflux for several hours. The reaction mixture was then cooled to 0° C., and petroleum ether was added. Upon completion of the addition the mixture was filtered and the filtrate was concentrated under reduced pressure, yielding 0.6 gram of N-[4-(cyclopropylmethoxy)phenylmethyl]-N-ethoxy-4-[bis(4-trifluoromethylphenyl)hydroxymethyl]-piperidinium iodide. The NMR spectrum was consistent with the proposed structure.

reactant | N-[4-(cyclopropylmethoxy)phenylmethyl]-4-[bis(4-trifluoromethylphenyl)hydroxy-methyl]piperidine N-oxide | 0.002 mole, 1.0 gram | C1(CC1)COC1=CC=C(C=C1)C[N+]1(CCC(CC1)C(O)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)[O-] | C31H31F6NO3
reactant | ethyl iodide | 0.002 mole, 0.3 gram | C(C)I | C2H5I
solvent | acetonitrile | about 5.0 mL | C(C)#N | C2H3N
product | N-[4-(cyclopropylmethoxy)phenylmethyl]-N-ethoxy-4-[bis(4-trifluoromethylphenyl)hydroxymethyl]-piperidinium iodide | 0.6 gram | [I-].C1(CC1)COC1=CC=C(C=C1)C[N+]1(CCC(CC1)C(O)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)OCC | InChI=1S/C33H36F6NO3.HI/c1-2-43-40(21-23-5-15-30(16-6-23)42-22-24-3-4-24)19-17-27(18-20-40)31(41,25-7-11-28(12-8-25)32(34,35)36)26-9-13-29(14-10-26)33(37,38)39;/h5-16,24,27,41H,2-4,17-22H2,1H3;1H/q+1;/p-1
